US06506771B2
The residue was dissolved in benzene and then there was added tetrabutylammonium bromide, aqueous Na2CO3 and 2-(tert-butylaminosulfonyl)phenylboronic. This solution was degassed with a stream of nitrogen for 30 minutes. Following the purge, tetrakis(triphenylphosphine)palladium(0) was added and the solution was stirred overnight at reflux. The solution was diluted with EtOAc and washed twice with brine and the organics dried over MgSO4, filtered and the volatiles removed under reduced pressure. The residue was purified by column chromatography (elution with 1:1 hexane/EtOAc) to afford an intermediate biphenyl compound.

reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
